US07214673B2
(S)-1,4-Dibenzyl-2-phenethyl-piperazine
Combine (S)-1,4-dibenzyl-2-vinyl-piperazine (4.9 g, 16.63 mmol) and 9-borabicyclo[3.3.1]nonane (199.6 ml, 99.78 mmol, 0.5 M in THF) and stir at ambient temperature. After 24 hours, add iodo-benzene (5.1 g, 24.95 mmol), triphenylphosphine (697.9 mg, 2.66 mmol), tetrakis(triphenylphosphine) palladium(0)(384.3 mg, 0.33 mmol), and 3N NaOH (13.7 mL) and stir at 60° C. After 22 hours, dilute the mixture with ethyl acetate and wash it with 1N sulfuric acid. Adjust the pH to 14, extract with ethyl acetate, and combine, wash (brine), dry (sodium sulfate), and reduce the extracts to residue. Purify the residue on silica gel using a ethyl acetate/hexanes gradient (5:95 to 10:90) to give (5.15 g, 84%) of the title compound as a white solid: mp 86–90° C.; mass spectrum (ion spray): m/z=371.3 (M+1).

reactant | (S)-1,4-dibenzyl-2-vinyl-piperazine | 16.63 mmol, 4.9 g | C(C1=CC=CC=C1)N1[C@H](CN(CC1)CC1=CC=CC=C1)C=C | C20H24N2
reactant | 9-borabicyclo[3.3.1]nonane | 99.78 mmol, 0.5 M, 199.6 ml | C12CCCC(CCC1)B2 | C8H15B
reactant | iodo-benzene | 24.95 mmol, 5.1 g | IC1=CC=CC=C1 | C6H5I
reactant | triphenylphosphine | 2.66 mmol, 697.9 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | NaOH | 3N, 13.7 mL | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.33 mmol, 384.3 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | (S)-1,4-Dibenzyl-2-phenethyl-piperazine | 5.15 g, 84% | C(C1=CC=CC=C1)N1[C@H](CN(CC1)CC1=CC=CC=C1)CCC1=CC=CC=C1 | C26H30N2
